US09078929B2
N,N′-Diisopropyl-O-benzylisourea:
Synthesis is carried out from benzyl alcohol and N,N′-dicyclohexylcarbodiimide (Mathias, Synthesis 1979, 561.)

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | N,N′-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N,N′-Diisopropyl-O-benzylisourea | C(C)(C)NC(OCC1=CC=CC=C1)=NC(C)C | C14H22N2O
